### PR TITLE
[Merged by Bors] - chore(Geometry/Manifold/MFDeriv/Basic): use custom elaborators

### PR DESCRIPTION
**Pull request by scholzhannah**
As requested [here](https://github.com/leanprover-community/mathlib4/pull/40748#issuecomment-4741875703).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 1]
```diff
@@ -111,61 +111,52 @@ theorem UniqueMDiffOn.prod {s : Set M} {t : Set M'} (hs : UniqueMDiff[s])
...
 
-theorem MDifferentiableAt.mdifferentiableWithinAt (h : MDifferentiableAt I I' f x) :
-    MDifferentiableWithinAt I I' f s x :=
+theorem MDifferentiableAt.mdifferentiableWithinAt (h : MDiffAt f x) : MDiffAt[s] f x :=
   MDifferentiableWithinAt.mono (subset_univ _) (mdifferentiableWithinAt_univ.2 h)
 
-theorem MDifferentiableWithinAt.mdifferentiableAt (h : MDifferentiableWithinAt I I' f s x)
-    (hs : s ∈ 𝓝 x) : MDifferentiableAt I I' f x := by
+theorem MDifferentiableWithinAt.mdifferentiableAt (h : MDiffAt[s] f x)
+    (hs : s ∈ 𝓝 x) : MDiffAt f x := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Let's reflow this to make it clearer:
```suggestion
theorem MDifferentiableWithinAt.mdifferentiableAt (h : MDiffAt[s] f x) (hs : s ∈ 𝓝 x) :
    MDiffAt f x := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 2]
```diff
@@ -256,23 +243,22 @@ theorem mdifferentiableWithinAt_iff_source_of_mem_maximalAtlas
...
+        (extChartAt I x x') :=
   mdifferentiableWithinAt_iff_source_of_mem_maximalAtlas (chart_mem_maximalAtlas x) hx'
 
 theorem mdifferentiableAt_iff_source_of_mem_source
     [IsManifold I 1 M] {x' : M} (hx' : x' ∈ (chartAt H x).source) :
-    MDifferentiableAt I I' f x' ↔
-      MDifferentiableWithinAt 𝓘(𝕜, E) I' (f ∘ (extChartAt I x).symm) (range I)
-        (extChartAt I x x') := by
+    MDiffAt f x' ↔
+      MDiffAt[range I] (f ∘ (extChartAt I x).symm) (extChartAt I x x') := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
    MDiffAt f x' ↔ MDiffAt[range I] (f ∘ (extChartAt I x).symm) (extChartAt I x x') := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 3]
```diff
@@ -256,23 +243,22 @@ theorem mdifferentiableWithinAt_iff_source_of_mem_maximalAtlas
...
   simp_rw [← mdifferentiableWithinAt_univ, mdifferentiableWithinAt_iff_source_of_mem_source hx',
     preimage_univ, univ_inter]
 
 theorem mdifferentiableWithinAt_iff_target_of_mem_source
     [IsManifold I' 1 M'] {x : M} {y : M'} (hy : f x ∈ (chartAt H' y).source) :
-    MDifferentiableWithinAt I I' f s x ↔
-      ContinuousWithinAt f s x ∧ MDifferentiableWithinAt I 𝓘(𝕜, E') (extChartAt I' y ∘ f) s x := by
+    MDiffAt[s] f x ↔
+      ContinuousWithinAt f s x ∧ MDiffAt[s] (extChartAt I' y ∘ f) x := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
    MDiffAt[s] f x ↔ ContinuousWithinAt f s x ∧ MDiffAt[s] (extChartAt I' y ∘ f) x := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 4]
```diff
@@ -468,37 +452,34 @@ end IsManifold
 
 variable {n : WithTop ℕ∞}
 
-theorem ContMDiffWithinAt.mdifferentiableWithinAt (hf : ContMDiffWithinAt I I' n f s x)
-    (hn : n ≠ 0) : MDifferentiableWithinAt I I' f s x := by
-  suffices h : MDifferentiableWithinAt I I' f (s ∩ f ⁻¹' (extChartAt I' (f x)).source) x by
+theorem ContMDiffWithinAt.mdifferentiableWithinAt (hf : CMDiffAt[s] n f x)
+    (hn : n ≠ 0) : MDiffAt[s] f x := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem ContMDiffWithinAt.mdifferentiableWithinAt (hf : CMDiffAt[s] n f x) (hn : n ≠ 0) :
    MDiffAt[s] f x := by
```

**Review by grunweg — COMMENTED** [review]
Reviewed up to line 604 so far. I'll continue after a break.

**Comment by scholzhannah** [comment]
Thank you! I guess I was a bit hasty with this PR. I have fixed all of the formatting issues that I could find now.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 5]
```diff
@@ -534,195 +511,185 @@ We mimic the API for functions between vector spaces
...
+    HasMFDerivAt[s] f x (mfderiv[s] f x) := by
   refine ⟨h.1, ?_⟩
   simp only [mfderivWithin, h, if_pos, mfld_simps]
   exact DifferentiableWithinAt.hasFDerivWithinAt h.2
 
 theorem mdifferentiableWithinAt_iff_exists_hasMFDerivWithinAt :
-    MDifferentiableWithinAt I I' f s x ↔ ∃ f', HasMFDerivWithinAt I I' f s x f' := by
-  refine ⟨fun h ↦ ⟨mfderivWithin I I' f s x, h.hasMFDerivWithinAt⟩, ?_⟩
+    MDiffAt[s] f x ↔ ∃ (f' : TangentSpace% x →L[𝕜] TangentSpace% (f x)),
+      HasMFDerivAt[s] f x f' := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: I'm on the fence here --- the only version specified the models, but was much shorter.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 6]
```diff
@@ -534,195 +511,185 @@ We mimic the API for functions between vector spaces
...
+protected theorem HasMFDerivWithinAt.mfderivWithin (h : HasMFDerivAt[s] f x f')
+    (hxs : UniqueMDiffAt[s] x) : mfderiv[s] f x = f' := by
   ext
   rw [hxs.eq h h.mdifferentiableWithinAt.hasMFDerivWithinAt]
 
 set_option backward.isDefEq.respectTransparency false in
-theorem HasMFDerivWithinAt.mfderivWithin_eq_zero (h : HasMFDerivWithinAt I I' f s x 0) :
-    mfderivWithin I I' f s x = 0 := by
+theorem HasMFDerivWithinAt.mfderivWithin_eq_zero
+    (h : HasMFDerivAt[s] f x (0 : TangentSpace% x →L[𝕜] TangentSpace% (f x))) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Same here - what do you think?

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 7]
```diff
@@ -776,100 +741,87 @@ theorem mdifferentiableWithinAt_insert {y : M} :
...
 
 section mdifferentiableOn_union
 
 /-- If a function is differentiable on two open sets, it is also differentiable on their union. -/
-lemma MDifferentiableOn.union_of_isOpen
-    (hf : MDifferentiableOn I I' f s) (hf' : MDifferentiableOn I I' f t)
-    (hs : IsOpen s) (ht : IsOpen t) :
-    MDifferentiableOn I I' f (s ∪ t) := by
+lemma MDifferentiableOn.union_of_isOpen (hf : MDiff[s] f) (hf' : MDiff[t] f) (hs : IsOpen s)
+    (ht : IsOpen t) : MDiff[s ∪ t] f := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
lemma MDifferentiableOn.union_of_isOpen
    (hf : MDiff[s] f) (hf' : MDiff[t] f) (hs : IsOpen s) (ht : IsOpen t) : MDiff[s ∪ t] f := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 8]
```diff
@@ -776,100 +741,87 @@ theorem mdifferentiableWithinAt_insert {y : M} :
...
+    (hst : s ∪ t = univ) (hs : IsOpen s) (ht : IsOpen t) : MDiff f := by
   rw [← mdifferentiableOn_univ, ← hst]
   exact hf.union_of_isOpen hf' hs ht
 
 /-- If a function is differentiable on open sets `s i`, it is differentiable on their union. -/
-lemma MDifferentiableOn.iUnion_of_isOpen {ι : Type*} {s : ι → Set M}
-    (hf : ∀ i : ι, MDifferentiableOn I I' f (s i)) (hs : ∀ i, IsOpen (s i)) :
-    MDifferentiableOn I I' f (⋃ i, s i) := by
+lemma MDifferentiableOn.iUnion_of_isOpen {ι : Type*} {s : ι → Set M} (hf : ∀ i : ι, MDiff[s i] f)
+    (hs : ∀ i, IsOpen (s i)) : MDiff[⋃ i, s i] f := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Probably the following is slightly nicer

```suggestion
lemma MDifferentiableOn.iUnion_of_isOpen
    {ι : Type*} {s : ι → Set M} (hf : ∀ i : ι, MDiff[s i] f) (hs : ∀ i, IsOpen (s i)) : MDiff[⋃ i, s i] f := by
```
(moving the conclusion to its own line if necessary).

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 9]
```diff
@@ -776,100 +741,87 @@ theorem mdifferentiableWithinAt_insert {y : M} :
...
   h.1
 
-theorem HasMFDerivAt.continuousAt (h : HasMFDerivAt I I' f x f') : ContinuousAt f x :=
+theorem HasMFDerivAt.continuousAt (h : HasMFDerivAt% f x f') : ContinuousAt f x :=
   h.1
 
-theorem tangentMapWithin_subset {p : TangentBundle I M} (st : s ⊆ t)
-    (hs : UniqueMDiffAt[s] p.1) (h : MDifferentiableWithinAt I I' f t p.1) :
-    tangentMapWithin I I' f s p = tangentMapWithin I I' f t p := by
+theorem tangentMapWithin_subset {p : TangentBundle I M} (st : s ⊆ t) (hs : UniqueMDiffAt[s] p.1)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Same here

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 10]
```diff
@@ -912,58 +864,56 @@ theorem hasMFDerivWithinAt_congr_set' (y : M) (h : s =ᶠ[𝓝[{y}ᶜ] x] t) :
...
-theorem HasMFDerivWithinAt.congr_mfderiv (h : HasMFDerivWithinAt I I' f s x f') (h' : f' = f₁') :
-    HasMFDerivWithinAt I I' f s x f₁' :=
+theorem HasMFDerivWithinAt.congr_mfderiv (h : HasMFDerivAt[s] f x f') (h' : f' = f₁') :
+    HasMFDerivAt[s] f x f₁' :=
   h' ▸ h
 
-theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f s x f')
-    (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) : HasMFDerivWithinAt I I' f₁ s x f' := by
+theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivAt[s] f x f') (h₁ : f₁ =ᶠ[𝓝[s] x] f)
+    (hx : f₁ x = f x) : HasMFDerivAt[s] f₁ x f' := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Can you also line-break this differently?
```suggestion
theorem HasMFDerivWithinAt.congr_of_eventuallyEq
    (h : HasMFDerivAt[s] f x f') (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) :
    HasMFDerivAt[s] f₁ x f' := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 11]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
     simp +contextual only [hx, mfld_simps]
   · simp only [hx, mfld_simps]
 
-theorem HasMFDerivWithinAt.congr_mono (h : HasMFDerivWithinAt I I' f s x f')
-    (ht : ∀ x ∈ t, f₁ x = f x) (hx : f₁ x = f x) (h₁ : t ⊆ s) : HasMFDerivWithinAt I I' f₁ t x f' :=
+theorem HasMFDerivWithinAt.congr_mono (h : HasMFDerivAt[s] f x f') (ht : ∀ x ∈ t, f₁ x = f x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Same here

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 12]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
-    (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) : MDifferentiableWithinAt I I' f₁ s x :=
+theorem MDifferentiableWithinAt.congr_of_eventuallyEq (h : MDiffAt[s] f x) (h₁ : f₁ =ᶠ[𝓝[s] x] f)
+    (hx : f₁ x = f x) : MDiffAt[s] f₁ x :=
   (h.hasMFDerivWithinAt.congr_of_eventuallyEq h₁ hx).mdifferentiableWithinAt
 
-theorem MDifferentiableWithinAt.congr_of_eventuallyEq_of_mem
-    (h : MDifferentiableWithinAt I I' f s x) (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : x ∈ s) :
-    MDifferentiableWithinAt I I' f₁ s x :=
+theorem MDifferentiableWithinAt.congr_of_eventuallyEq_of_mem (h : MDiffAt[s] f x)
+    (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : x ∈ s) : MDiffAt[s] f₁ x :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem MDifferentiableWithinAt.congr_of_eventuallyEq_of_mem
    (h : MDiffAt[s] f x) (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : x ∈ s) : MDiffAt[s] f₁ x :=
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 13]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
   h.congr_of_eventuallyEq h₁ (mem_of_mem_nhdsWithin hx h₁ :)
 
-theorem MDifferentiableWithinAt.congr_of_eventuallyEq_insert
-    (h : MDifferentiableWithinAt I I' f s x) (h₁ : f₁ =ᶠ[𝓝[insert x s] x] f) :
-    MDifferentiableWithinAt I I' f₁ s x :=
+theorem MDifferentiableWithinAt.congr_of_eventuallyEq_insert (h : MDiffAt[s] f x)
+    (h₁ : f₁ =ᶠ[𝓝[insert x s] x] f) : MDiffAt[s] f₁ x :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem MDifferentiableWithinAt.congr_of_eventuallyEq_insert
    (h : MDiffAt[s] f x) (h₁ : f₁ =ᶠ[𝓝[insert x s] x] f) : MDiffAt[s] f₁ x :=
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 14]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
 
 theorem Filter.EventuallyEq.mdifferentiableWithinAt_iff (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) :
-    MDifferentiableWithinAt I I' f s x ↔ MDifferentiableWithinAt I I' f₁ s x :=
+    MDiffAt[s] f x ↔ MDiffAt[s] f₁ x :=
   mdifferentiablefWithinAt_iff h₁.symm hx.symm
 
-theorem MDifferentiableWithinAt.congr_mono (h : MDifferentiableWithinAt I I' f s x)
-    (ht : ∀ x ∈ t, f₁ x = f x) (hx : f₁ x = f x) (h₁ : t ⊆ s) :
-    MDifferentiableWithinAt I I' f₁ t x :=
+theorem MDifferentiableWithinAt.congr_mono (h : MDiffAt[s] f x) (ht : ∀ x ∈ t, f₁ x = f x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Idem

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 15]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
+    (hx : f₁ x = f x) (h₁ : t ⊆ s) : MDiffAt[t] f₁ x :=
   (HasMFDerivWithinAt.congr_mono h.hasMFDerivWithinAt ht hx h₁).mdifferentiableWithinAt
 
-theorem MDifferentiableWithinAt.congr (h : MDifferentiableWithinAt I I' f s x)
-    (ht : ∀ x ∈ s, f₁ x = f x) (hx : f₁ x = f x) : MDifferentiableWithinAt I I' f₁ s x :=
+theorem MDifferentiableWithinAt.congr (h : MDiffAt[s] f x) (ht : ∀ x ∈ s, f₁ x = f x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Here also

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 16]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
+    (hx : f₁ x = f x) : MDiffAt[s] f₁ x :=
   (HasMFDerivWithinAt.congr_mono h.hasMFDerivWithinAt ht hx (Subset.refl _)).mdifferentiableWithinAt
 
 /-- Version of `MDifferentiableWithinAt.congr` where `x` need not be contained in `s`,
 but `f` and `f₁` are equal on a set containing both. -/
-theorem MDifferentiableWithinAt.congr' (h : MDifferentiableWithinAt I I' f s x)
-    (ht : ∀ x ∈ t, f₁ x = f x) (hst : s ⊆ t) (hxt : x ∈ t) : MDifferentiableWithinAt I I' f₁ s x :=
+theorem MDifferentiableWithinAt.congr' (h : MDiffAt[s] f x) (ht : ∀ x ∈ t, f₁ x = f x) (hst : s ⊆ t)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: And here

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 17]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
+theorem MDifferentiableWithinAt.mfderivWithin_congr_mono (h : MDiffAt[s] f x)
     (hs : ∀ x ∈ t, f₁ x = f x) (hx : f₁ x = f x) (hxt : UniqueMDiffAt[t] x) (h₁ : t ⊆ s) :
-    mfderivWithin I I' f₁ t x = mfderivWithin I I' f s x :=
+    mfderiv[t] f₁ x = mfderiv[s] f x :=
   (HasMFDerivWithinAt.congr_mono h.hasMFDerivWithinAt hs hx h₁).mfderivWithin hxt
 
-theorem MDifferentiableWithinAt.mfderivWithin_mono (h : MDifferentiableWithinAt I I' f s x)
-    (hxt : UniqueMDiffAt[t] x) (h₁ : t ⊆ s) :
-    mfderivWithin I I' f t x = mfderivWithin I I' f s x :=
+theorem MDifferentiableWithinAt.mfderivWithin_mono (h : MDiffAt[s] f x) (hxt : UniqueMDiffAt[t] x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Possibly here (optional)

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 18]
```diff
@@ -974,105 +924,97 @@ theorem HasMFDerivWithinAt.congr_of_eventuallyEq (h : HasMFDerivWithinAt I I' f
...
+    (h₁ : t ⊆ s) : mfderiv[t] f x = mfderiv[s] f x :=
   h.mfderivWithin_congr_mono (fun _ _ ↦ rfl) rfl hxt h₁
 
-theorem MDifferentiableWithinAt.mfderivWithin_mono_of_mem_nhdsWithin
-    (h : MDifferentiableWithinAt I I' f s x) (hxt : UniqueMDiffAt[t] x) (h₁ : s ∈ 𝓝[t] x) :
-    mfderivWithin I I' f t x = mfderivWithin I I' f s x :=
+theorem MDifferentiableWithinAt.mfderivWithin_mono_of_mem_nhdsWithin (h : MDiffAt[s] f x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: or here

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 19]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
   rcases hg.2 with ⟨g', hg'⟩
-  have G : HasMFDerivWithinAt I' I'' g u (f x) g' := ⟨hg.1, hg'⟩
+  have G : HasMFDerivAt[u] g (f x) g' := ⟨hg.1, hg'⟩
   exact (HasMFDerivWithinAt.comp x G F h).mdifferentiableWithinAt
 
-theorem MDifferentiableWithinAt.comp_of_eq {y : M'} (hg : MDifferentiableWithinAt I' I'' g u y)
-    (hf : MDifferentiableWithinAt I I' f s x) (h : s ⊆ f ⁻¹' u) (hy : f x = y) :
-    MDifferentiableWithinAt I I'' (g ∘ f) s x := by
+theorem MDifferentiableWithinAt.comp_of_eq {y : M'} (hg : MDiffAt[u] g y) (hf : MDiffAt[s] f x)
+    (h : s ⊆ f ⁻¹' u) (hy : f x = y) : MDiffAt[s] (g ∘ f) x := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem MDifferentiableWithinAt.comp_of_eq
    {y : M'} (hg : MDiffAt[u] g y) (hf : MDiffAt[s] f x) (h : s ⊆ f ⁻¹' u) (hy : f x = y) : MDiffAt[s] (g ∘ f) x := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 20]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
   subst hy; exact hg.comp _ hf h
 
-theorem MDifferentiableWithinAt.comp_of_preimage_mem_nhdsWithin
-    (hg : MDifferentiableWithinAt I' I'' g u (f x))
-    (hf : MDifferentiableWithinAt I I' f s x) (h : f ⁻¹' u ∈ 𝓝[s] x) :
-    MDifferentiableWithinAt I I'' (g ∘ f) s x :=
+theorem MDifferentiableWithinAt.comp_of_preimage_mem_nhdsWithin (hg : MDiffAt[u] g (f x))
+    (hf : MDiffAt[s] f x) (h : f ⁻¹' u ∈ 𝓝[s] x) : MDiffAt[s] (g ∘ f) x :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem MDifferentiableWithinAt.comp_of_preimage_mem_nhdsWithin
    (hg : MDiffAt[u] g (f x)) (hf : MDiffAt[s] f x) (h : f ⁻¹' u ∈ 𝓝[s] x) : MDiffAt[s] (g ∘ f) x :=
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 21]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
   (hg.comp _ (hf.mono inter_subset_right) inter_subset_left).mono_of_mem_nhdsWithin
     (Filter.inter_mem h self_mem_nhdsWithin)
 
-theorem MDifferentiableWithinAt.comp_of_preimage_mem_nhdsWithin_of_eq {y : M'}
-    (hg : MDifferentiableWithinAt I' I'' g u y)
-    (hf : MDifferentiableWithinAt I I' f s x) (h : f ⁻¹' u ∈ 𝓝[s] x) (hy : f x = y) :
+theorem MDifferentiableWithinAt.comp_of_preimage_mem_nhdsWithin_of_eq {y : M'} (hg : MDiffAt[u] g y)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Ditto

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 22]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
-    (hf : MDifferentiableAt I I' f x) (hy : f x = y) : MDifferentiableAt I I'' (g ∘ f) x := by
+theorem MDifferentiableAt.comp_of_eq {y : M'} (hg : MDiffAt g y) (hf : MDiffAt f x) (hy : f x = y) :
+    MDiffAt (g ∘ f) x := by
   subst hy; exact hg.comp _ hf
 
-theorem MDifferentiableAt.comp_mdifferentiableWithinAt
-    (hg : MDifferentiableAt I' I'' g (f x)) (hf : MDifferentiableWithinAt I I' f s x) :
-    MDifferentiableWithinAt I I'' (g ∘ f) s x := by
+theorem MDifferentiableAt.comp_mdifferentiableWithinAt (hg : MDiffAt g (f x))
+    (hf : MDiffAt[s] f x) : MDiffAt[s] (g ∘ f) x := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem MDifferentiableAt.comp_mdifferentiableWithinAt
    (hg : MDiffAt g (f x)) (hf : MDiffAt[s] f x) : MDiffAt[s] (g ∘ f) x := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 23]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
   rw [← mdifferentiableWithinAt_univ] at hg
   exact hg.comp _ hf (by simp)
 
-theorem MDifferentiableAt.comp_mdifferentiableWithinAt_of_eq {y : M'}
-    (hg : MDifferentiableAt I' I'' g y) (hf : MDifferentiableWithinAt I I' f s x) (hy : f x = y) :
-    MDifferentiableWithinAt I I'' (g ∘ f) s x := by
+theorem MDifferentiableAt.comp_mdifferentiableWithinAt_of_eq {y : M'} (hg : MDiffAt g y)
+    (hf : MDiffAt[s] f x) (hy : f x = y) : MDiffAt[s] (g ∘ f) x := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem MDifferentiableAt.comp_mdifferentiableWithinAt_of_eq
    {y : M'} (hg : MDiffAt g y) (hf : MDiffAt[s] f x) (hy : f x = y) : MDiffAt[s] (g ∘ f) x := by
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 24]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
   subst hy; exact hg.comp_mdifferentiableWithinAt _ hf
 
-theorem mfderivWithin_comp (hg : MDifferentiableWithinAt I' I'' g u (f x))
-    (hf : MDifferentiableWithinAt I I' f s x) (h : s ⊆ f ⁻¹' u) (hxs : UniqueMDiffAt[s] x) :
-    mfderivWithin I I'' (g ∘ f) s x =
-      (mfderivWithin I' I'' g u (f x)).comp (mfderivWithin I I' f s x) := by
+theorem mfderivWithin_comp (hg : MDiffAt[u] g (f x)) (hf : MDiffAt[s] f x) (h : s ⊆ f ⁻¹' u)
+    (hxs : UniqueMDiffAt[s] x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem mfderivWithin_comp
    (hg : MDiffAt[u] g (f x)) (hf : MDiffAt[s] f x) (h : s ⊆ f ⁻¹' u) (hxs : UniqueMDiffAt[s] x) :
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 25]
```diff
@@ -1150,164 +1091,138 @@ theorem HasMFDerivWithinAt.comp (hg : HasMFDerivWithinAt I' I'' g u (f x) g')
...
+theorem mfderiv_comp_apply (hg : MDiffAt g (f x)) (hf : MDiffAt f x) (v : TangentSpace% x) :
+    mfderiv% (g ∘ f) x v = (mfderiv% g (f x)) ((mfderiv% f x) v) := by
   rw [mfderiv_comp _ hg hf]
   rfl
 
-theorem mfderiv_comp_apply_of_eq {y : M'} (hg : MDifferentiableAt I' I'' g y)
-    (hf : MDifferentiableAt I I' f x) (hy : f x = y) (v : TangentSpace I x) :
-    mfderiv I I'' (g ∘ f) x v = (mfderiv I' I'' g y) ((mfderiv I I' f x) v) := by
+theorem mfderiv_comp_apply_of_eq {y : M'} (hg : MDiffAt g y) (hf : MDiffAt f x) (hy : f x = y)
+    (v : TangentSpace% x) : mfderiv% (g ∘ f) x v = (mfderiv% g y) ((mfderiv% f x) v) := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
theorem mfderiv_comp_apply_of_eq
    {y : M'} (hg : MDiffAt g y) (hf : MDiffAt f x) (hy : f x = y) (v : TangentSpace% x) :
    mfderiv% (g ∘ f) x v = (mfderiv% g y) ((mfderiv% f x) v) := by
```

**Review by grunweg — COMMENTED** [review]
Thanks for your patience - here are my remaining comments. All very minor.

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 5 above)
Comment (scholzhannah) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]: Yes, I have reverted this. I think the type annotation is more confusing than the explicit models, so I think the old version was better.

**Comment by scholzhannah** [comment]
Thank you for your review! Some of the line-break changes seem a little random to me. Is it that you like all of the hypotheses to be on one line if possible?

**Comment by grunweg** [comment]
I think there's benefit to line breaks having a pattern such as
- putting the conclusion on a separate line,
- not having three hypotheses and the conclusion on the same line,
- grouping similar hypotheses using line breaks.

None of these are strictly enforcable, but if we're changing things already, we may as well make them readable this way.

To give an example, in
```
theorem MDifferentiableAt.comp_mdifferentiableWithinAt_of_eq {y : M'} (hg : MDiffAt g y)
    (hf : MDiffAt[s] f x) (hy : f x = y) : MDiffAt[s] (g ∘ f) x := by
```
you have two conceptually very similar hypotheses (hg and hf) on separate lines: that doesn't make semantic sense. Putting them next to each other is much nicer. (Whether to put the conclusion on a separate line is a matter of taste. I'm open to it, but don't think that has to happen.)

**Comment by grunweg** [comment]
Thanks!
bors merge
